US07423153B2
A 140 liter reactor equipped with mechanical stirrer, condenser and thermometer, was charged with dimethyl sulfoxide (DMSO, 120 L). The DMSO was heated to 55° C. and the reactor was charged with 2-methylpiperazine (8.6 kg). Gatifloxacin acid was charged, in four portions, every 2 hours (3×4=12 Kg). The reaction mixture was stirred at a rate of 110 rpm under nitrogen atmosphere. The temperature was maintained for 24 hours until completion of the reaction. The reaction mixture was cooled to 48° C. and water (24 L) was added at this temperature. The mixture was cooled to 5° C. during 3.5 hours and maintained with stirring for 15 hours at this temperature. The mixture was filtered (suction) and washed with acetonitrile (18 L) to obtain 15.9 Kg of gatifloxacin.

reactant | dimethyl sulfoxide | 120 L | CS(=O)C | C2H6OS
reactant | 2-methylpiperazine | 8.6 kg | CC1NCCNC1 | C5H12N2
reactant | Gatifloxacin acid | CC1CN(CCN1)C2=C(C=C3C(=C2OC)N(C=C(C3=O)C(=O)O)C4CC4)F.Cl
solvent | water | 24 L | O | H2O
product | gatifloxacin | 15.9 Kg | CC1CN(CCN1)C2=C(C=C3C(=C2OC)N(C=C(C3=O)C(=O)O)C4CC4)F | C19H22FN3O4
